US07678798B2
t-Butyl 4-{(3S)-4-[2-Ethoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate
Sodium hydride (5.225 g, 0.1306 mol) was mixed with dry DMF (150 mL) at 0° C. A solution of t-butyl 4-{(3S)-4-[2-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate (50.0 g, 0.1005 mol) in DMF (100 mL) was added dropwise at 0° C over 20 min. After the addition, the mixture was stirred for another 20 min before iodoethane (12.06 mL, 0.1507 mol) was added at one portion. After being stirred for 1 h, the reaction content was carefully poured into 500 mL icy water. The mixture was extracted with methylene chloride (500 mL×3). The combined organic layer was washed with brine, and dried over magnesium sulfate. After the removal of the solvent, the residue was dissolved in methylene chloride, and passed through a silica plug with ethyl acetate/hexane/triethylamine 50:50:1 (the plug was presaturated with the same solvent system). After removal of the solvent, 48.4 g (91.6%) of product was obtained as a sticky solid, MS (EI) 526.2 (M+1).

reactant | Sodium hydride | 0.1306 mol, 5.225 g | [H-].[Na+]
reactant | t-butyl 4-{(3S)-4-[2-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | 0.1005 mol, 50.0 g | OC1C(C2=CC=C(C=C2C1)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C26H38F3N3O3
reactant | iodoethane | 0.1507 mol, 12.06 mL | ICC | C2H5I
reactant | water | 500 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | t-Butyl 4-{(3S)-4-[2-Ethoxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | 48.4 g, 91.6% | C(C)OC1C(C2=CC=C(C=C2C1)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C28H42F3N3O3
